US05973159
2-Chloro-6-trifluoromethylpyridine (8.05 g at 98% strength; 43.2 mmol; 1 equiv) was charged to a Parr reactor, pressure tested at 100 psi. The pressure was released and the reactor heated to 150° C. Sodium hydroxide solution (9.823% strength; 40.1 g; 98.5 mmol; 2.28 equiv) was added via an HPLC pump over 2 hours 20 minutes and the reaction mixture maintained at 150° C. for a further 4 hours. The mixture was cooled, unreacted 2-chloro-6-trifluoromethylpyridine extracted with methylene chloride, and the aqueous phase acidified with hydrochloric acid and filtered to afford 2-hydroxy-6-trifluoromethylpyridine (5.615 g; 93% strength; 73% isolated yield). Further product was obtained by extraction of the filtrates with methylene chloride.

reactant | 2-Chloro-6-trifluoromethylpyridine | 43.2 mmol, 8.05 g, 1 equiv | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | Sodium hydroxide | 98.5 mmol, 40.1 g, 2.28 equiv | [OH-].[Na+]
product | 2-hydroxy-6-trifluoromethylpyridine | 5.615 g | OC1=NC(=CC=C1)C(F)(F)F | C6H4F3NO
